US07897767B2
Cyclohexyl isocyanate (0.285 mL, 2.20 mmol) was added to a flask containing 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butan-1-amine hydrochloride (680 mg, 1.98 mmol), triethylamine (0.311 mL, 2.2 mmol), and dichloromethane (20 mL). The reaction mixture was stirred at room temperature for 2 hours and additional triethylamine and cyclohexyl isocyanate (1.1 equivalents each) were added. The reaction mixture was stirred overnight at room temperature, then was partitioned between dichloromethane (50 mL) and 2:1 water/saturated aqueous sodium carbonate (30 mL). The aqueous layer was extracted with dichloromethane (3×20 mL). The organic layers were combined, washed with 0.5 M aqueous sodium hydroxide (2×30 mL), and concentrated under reduced pressure. The resulting white solid was triturated with ethyl acetate, isolated by filtration, and washed with ethyl acetate and water to provide 777 mg of N-{4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-N′-cyclohexylurea.

reactant | Cyclohexyl isocyanate | 2.20 mmol, 0.285 mL | C1(CCCCC1)N=C=O | C7H11NO
reactant | 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butan-1-amine hydrochloride | 1.98 mmol, 680 mg | Cl.ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCN
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | cyclohexyl isocyanate | 1.1 equivalents | C1(CCCCC1)N=C=O | C7H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2.2 mmol, 0.311 mL | C(C)N(CC)CC | C6H15N
product | N-{4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-N′-cyclohexylurea | 777 mg | ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(=O)NC1CCCCC1 | C20H29ClN8O
